US04988384
To 8.4 g (22.5 mmol) of acid chloride starting material used in Example 1 in 50 ml of methylene chloride were added 5.4 g of 3-bromopropylamine hydrobromide and 5.5 g of potassium carbonate. The mixture was stirred at room temperature for one hour and then 20 ml of water was added. Stirring was continued for 18 hours. After that the organic layer was separated, washed with brine and concentrated. The oily residue was triturated with cyclohexane to give a solid. A 2.3 g analytically pure sample was obtained by chromatography of 2.6 g of crude 3-pyridinecarboxylic acid, 5-[[(3-bromopropyl)amino]carbonyl]-6-(difluoromethyl)- 4-(2-methylpropyl)-2-(trifluoro-methyl)-, methyl ester on silica gel columns with 20% ethyl acetate/cyclohexane as eluting solvent, m.p. 107°-110° C.

reactant | 3-bromopropylamine hydrobromide | 5.4 g | Br.BrCCCN
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
reactant | ethyl acetate cyclohexane | C(C)(=O)OCC.C1CCCCC1
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-pyridinecarboxylic acid | 2.6 g | N1=CC(=CC=C1)C(=O)O | C6H5NO2
